US04652553
Step C: Cholest-5-en-3β-yl 6-iodohexyl ether
A solution of cholest-5-en-3β-yl 6-(p-toluenesulfonyloxy)hexyl ether (33 g, 51 mmol) and sodium iodide (16 g, 0.106 mol) in acetone (250 ml) was refluxed for 4 hours. The solvent was removed under reduced pressure, filtered, and the collected salts washed well with ether. The filtrate was evaporated and residual yellow oil boiled in hexanes (400 ml). The solution was decanted, concentrated to 200 ml, and stored in the refrigerator for two days. The product was filtered and the mother liquors concentrated to give a total yield of 30 g (97%), m.p. 103.5°-104.5° C.

reactant | cholest-5-en-3β-yl 6-(p-toluenesulfonyloxy)hexyl ether | 51 mmol, 33 g | C1(=CC=C(C=C1)S(=O)(=O)OCCCCCCO[C@@H]1CC2=CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCCC(C)C)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)C | C40H64O4S
reactant | sodium iodide | 0.106 mol, 16 g | [I-].[Na+]
solvent | acetone | 250 ml | CC(=O)C | C3H6O
product | Cholest-5-en-3β-yl 6-iodohexyl ether | ICCCCCCO[C@@H]1CC2=CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCCC(C)C)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C33H57IO
